US05412124
Synthesis of 5,8-dihydro-6,7-dimethyl-1,4-naphthoquinone
In toluene (60 ml) and acetic acid (10 ml), were dissolved 14.0 g (0.13 mol) of 1,4-benzoquinone, to which 20.0 g (0.24 mol) of 2,3-dimethyl-1,3-butadiene were added at -10° C. under stirring. Thereafter, the resultant mixture was gradually heated and stirred further for 3 hours at 40° C. The liquid reaction mixture was washed with water, and an organic layer was dried and concentrated under reduced pressure. Concentrated hydrochloric acid (1 ml) and ethanol (60 ml) were added to the residue, and the mixture was stirred for 1 hour at 40° C. After the liquid reaction mixture was concentrated under reduced pressure, the residue was dissolved in a liquid mixture of acetonitrile (100 ml) and water (30 ml). To the solution, were added 20.0 g (0.036 mol) of ceric ammonium nitrate at room temperature to stir the resultant mixture for 1 hour. The liquid reaction mixture was poured into water (200 ml) to make extraction with toluene (50 ml × 2). The resulting organic layer was washed with water, dried and concentrated under reduced pressure to obtain 21.5 g of a crude product of the title compound (yield: 88%).

reactant | 1,4-benzoquinone | 0.13 mol, 14.0 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | 2,3-dimethyl-1,3-butadiene | 0.24 mol, 20.0 g | CC(=C)C(=C)C | C6H10
reactant | water | 200 ml | O | H2O
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5,8-dihydro-6,7-dimethyl-1,4-naphthoquinone | yield: 88% | CC=1CC=2C(C=CC(C2CC1C)=O)=O | C12H12O2
